US06784167B2
To a 0° C. solution of 3-[((2R,3R)-1-methyl-5-oxo-3-phenylpyrrolidin-2-yl)carbonyl](4S)4-benzyl-1,3-oxazolidin-2-one (41.02 g, 0.108 mol) and MeOH (4.83 mL, 0.119 mol, 1.1 equiv) in THF (500 mL) was added LiBH4 (2.60 g, 0.119 mol, 1.1 equiv) in two portions. The reaction was allowed to warm to room temperature and stirred overnight, then cooled to 0° C. and treated with a saturated NH4Cl solution (100 mL). The resulting mixture was concentrated under reduced pressure and the residue was extracted with EtOAc (3×200 mL). The combined organic layers were washed with a saturated NaCl solution (200 mL), dried (Na2SO4) and concentrated under reduced pressure. The crude product was dissolved in a minimal amount of CH2Cl2, then diluted with Et2O. The resulting precipitate was collected by filtration and washed with Et2O to give (4R,5R)-5-(hydroxymethyl)-1-methyl-4-phenylpyrrolidin-2-one (10.4 g, 47%) as a white solid: TLC (5% MeOH/CH2Cl2) Rf 0.48; 1H NMR (CDCl3) δ 2.54 (dd, J=8.4, 16.6 Hz, 1H), 2.79 (s, 1H), 2.90-3.03 (m, 4H), 3.33 (dd, J=8.4, 16.6 Hz, 1H), 3.61-3.83 (m, 3H), 7.25-7.39 (m, 5H); 13C NMR (CDCl3) δ 28.6, 35.6, 41.6, 59.6, 65.5, 127.2, 128.0, 128.7, 137.7, 146.5, 175.2; HPLC ES-MS m/z (rel abundance) 206 (MH+, 100%).

reactant | 3-[((2R,3R)-1-methyl-5-oxo-3-phenylpyrrolidin-2-yl)carbonyl](4S)4-benzyl-1,3-oxazolidin-2-one | 0.108 mol, 41.02 g | CN1[C@H]([C@H](CC1=O)C1=CC=CC=C1)C(=O)N1C(OC[C@@H]1CC1=CC=CC=C1)=O | C22H22N2O4
reactant | MeOH | 0.119 mol, 4.83 mL, 1.1 equiv | CO | CH4O
reactant | LiBH4 | 0.119 mol, 2.60 g, 1.1 equiv | [Li+].[BH4-]
reactant | NH4Cl | 100 mL | [NH4+].[Cl-]
solvent | THF | 500 mL | C1CCOC1 | C4H8O
product | (4R,5R)-5-(hydroxymethyl)-1-methyl-4-phenylpyrrolidin-2-one | 10.4 g, 47% | OC[C@H]1[C@H](CC(N1C)=O)C1=CC=CC=C1 | C12H15NO2
